US09227971B2
To a solution of methyl 5-(piperazin-1-yl)-4H-1,2,4-triazole-3-carboxylate (1.0 g, 4.44 mmols) in DCM (10 mL) was added (BOC)2O (0.970 g, 4.44 mmol), DMAP (0.050 g, 0.41 mmol), DIEA (3.9 mL, 22.4 mmol). The reaction was stirred at RT overnight. Reaction concentrated and ISCO purification (0-5% MeOH in DCM) to obtain tert-butyl 4-(5-(methoxycarbonyl)-4H-1,2,4-triazol-3-yl)piperazine-1-carboxylate (0.580 g).

reactant | methyl 5-(piperazin-1-yl)-4H-1,2,4-triazole-3-carboxylate | 4.44 mmols, 1.0 g | N1(CCNCC1)C=1NC(=NN1)C(=O)OC | C8H13N5O2
reactant | (BOC)2O | 4.44 mmol, 0.970 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 22.4 mmol, 3.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.41 mmol, 0.050 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-(5-(methoxycarbonyl)-4H-1,2,4-triazol-3-yl)piperazine-1-carboxylate | 0.580 g | COC(=O)C=1NC(=NN1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H21N5O4
